US06417203B1
2-[3-(3-[(Dimethylamino)methyl]phenethylamino)6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid
Benzyl-2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 20) (137 mg, 0.29 mmol) was dissolved in methanol:water (10:2, 20 ml), treated with Pearlman's catalyst (10 mg) and stirred under a hydrogen atmosphere (60 psi, room temperature, 2.5 hr). The catalyst was removed by filtration, followed by evaporation of the solvent and azeotroping with CH2Cl2 to yield a crude yellow solid. To the crude mixture, 1H-indol-5-ylmethylamine (preparation 8) (43 mg, 0.29 mmol), HOBT (46 mg, 0.34 mmol), WSCDI.HCl (74 mg, 0.39 mmol), N-methylmorpholine (0.061 ml, 0.55 mmol) and DMF (5 ml) were stirred at room temperature for 18 hr. The resultant mixture was evaporated to dryness and azeotroped with CH2Cl2. Water (2 ml) was added followed by aq Na2CO3 (a few drops) and the residue treated with ethyl acetate and methanol. The organic layer was separated, dried over MgSO4. Filtration away from the drying agent followed by evaporation of the solvent gave the crude product which was purified by chromatography (SiO2, gradient elution with 100% CH2Cl2; 95:5 CH2Cl2:MeOH; 95:5:0.5 CH2Cl2:MeOH:NH3) to give the desired product (10 mg, 7%).

reactant | Benzyl-2-[3-chloro-5-(3-[(dimethylamino)methyl]phenethylamino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.29 mmol, 137 mg | C(C1=CC=CC=C1)OC(CN1C(=C(N=C(C1=O)NCCC1=CC(=CC=C1)CN(C)C)Cl)C)=O | C25H29ClN4O3
reactant | 1H-indol-5-ylmethylamine | 0.29 mmol, 43 mg | N1C=CC2=CC(=CC=C12)CN | C9H10N2
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 0.39 mmol, 74 mg | Cl | ClH
reactant | N-methylmorpholine | 0.55 mmol, 0.061 ml | CN1CCOCC1 | C5H11NO
solvent | methanol water | 20 ml | CO.O
catalyst | Pearlman's catalyst | 10 mg | [OH-].[OH-].[Pd+2]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[3-(3-[(Dimethylamino)methyl]phenethylamino)6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid | 10 mg, 7% | CN(C)CC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C18H24N4O3
